** HSPICE file for nor3_ld
**   - generated by ext2sp v4.1

** Include netlist file for nor3_ld
.include nor3_ld.spice

** Default 3.3V Power Supply
Vsupply Vdd GND 3.3V

** Specify input signals here
** e.g. for inputs A and B
VNA NA GND PWL(0NS 3.3V  2NS 3.3V  2.25NS 0V  6NS 0V  6.25NS 3.3V)
VNB NB GND PWL(0NS 3.3V  8NS 3.3V  8.25NS 0V  12NS 0V  12.25NS 3.3V)
VNC NC GND PWL(0NS 3.3V  14NS 3.3V  14.25NS 0V  18NS 0V  18.25NS 3.3V)
** Default Simulation - Type, Resolution & Duration
.TRAN 10PS 20NS

** Specify ouput signals to measure here
** e.g. rise and fall delays for output Y
**   .measure tran fall_delay TRIG v(Y) VAL='3.3*0.9' TD=0NS FALL=1
**   + TARG v(Y) VAL='3.3*0.1' TD=0NS FALL=1
**   .measure tran rise_delay TRIG v(Y) VAL='3.3*0.1' TD=0NS RISE=1
**   + TARG v(Y) VAL='3.3*0.9' TD=0NS RISE=1
.measure tran x_a_rise_prop_delay TRIG v(A) VAL='3.3*0.5' TD=0NS RISE=1
+ TARG v(Y) VAL='3.3*0.5' TD=0NS FALL=1
.measure tran x_a_fall_prop_delay TRIG v(A) VAL='3.3*0.5' TD=0NS FALL=1
+ TARG v(Y) VAL='3.3*0.5' TD=0NS RISE=1

.measure tran x_b_rise_prop_delay TRIG v(B) VAL='3.3*0.5' TD=0NS RISE=1
+ TARG v(Y) VAL='3.3*0.5' TD=0NS FALL=2
.measure tran x_b_fall_prop_delay TRIG v(B) VAL='3.3*0.5' TD=0NS FALL=1
+ TARG v(Y) VAL='3.3*0.5' TD=0NS RISE=2

.measure tran x_c_rise_prop_delay TRIG v(C) VAL='3.3*0.5' TD=0NS RISE=1
+ TARG v(Y) VAL='3.3*0.5' TD=0NS FALL=3
.measure tran x_c_fall_prop_delay TRIG v(C) VAL='3.3*0.5' TD=0NS FALL=1
+ TARG v(Y) VAL='3.3*0.5' TD=0NS RISE=3


.measure A_to_Y PARAM = '(x_a_rise_prop_delay + x_a_fall_prop_delay)/2'
.measure B_to_Y PARAM = '(x_b_rise_prop_delay + x_b_fall_prop_delay)/2'
.measure C_to_Y PARAM = '(x_c_rise_prop_delay + x_c_fall_prop_delay)/2'

** Save results for display
.OPTIONS POST
** Avoid DC convergence in at unreasonable voltage
.OPTIONS GMINDC=1n

.END
